Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ with h/o dementia, HTN, and frequent 
falls who was transferred from ___ for further 
evaluation of ___.  The patient had unwittnessed fall on on day 
of admission at her living facility ___) with 
head strike on the floor.  She denied LOC, convulsions, tongue 
biting or loss of bowel/bladder function.  She did report 
feeling light-headed prior to her fall and remembered the entire 
event.  Denied chest pain, or palpitations.  She was taken to 
___.  CT head showed small left SAH and she was 
transferred to ___ for neurosurgery eval. 
 
Past Medical History:
-HTN
-h/o left ankle fx s/p surgical repair
-h/o thyroid nodule
-dementia
-subdural hematoma ___ following a fall
-h/o frequent falls  
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: VS 98.5  BP 138/67  HR 67  RR 17  97% RA 
General: Alert, oriented, no acute distress  
HEENT: Echymoses at neck, sclera anicteric, MMM, oropharynx 
clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  

DISCHARGE PHYSICAL EXAM:
Vitals: T: 97.2-98.6 BP: 127-150/43-56 P: 60-69 R: ___ O2: 
95-97% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, no rebound tenderness 
or guarding 
Ext: Warm, well perfused, no edema  
Neuro: AOx3. 
 
Pertinent Results:
ADMISSION LABS:
___ 03:35PM BLOOD WBC-9.3 RBC-4.13 Hgb-12.2 Hct-37.8 MCV-92 
MCH-29.5 MCHC-32.3 RDW-13.0 RDWSD-42.9 Plt ___
___ 03:35PM BLOOD Neuts-74.6* Lymphs-14.0* Monos-6.3 
Eos-4.0 Baso-0.5 Im ___ AbsNeut-6.91* AbsLymp-1.30 
AbsMono-0.58 AbsEos-0.37 AbsBaso-0.05
___ 06:25AM BLOOD Glucose-90 UreaN-18 Creat-0.9 Na-143 
K-4.1 Cl-108 HCO3-25 AnGap-14
___ 03:35PM BLOOD Calcium-9.7 Phos-4.3 Mg-2.3

DISCHARGE LABS:
None

MICROBIOLOGY:
Time Taken Not Noted     Log-In Date/Time: ___ 2:58 am
      URINE     Site: NOT SPECIFIED      69110R. 
   URINE CULTURE (Pending): 

IMAGING:
___: IMPRESSION: 
No evidence of pneumonia.

___ 12:25 AM: IMPRESSION: 
Small focus of subarachnoid hemorrhage in the left sylvian 
fissure.

___ 10:46 AM: IMPRESSION: 
1. Stable small focus of subarachnoid hemorrhage in the left 
sylvian fissure. 
No new site of hemorrhage.
2. Subgaleal hematoma at the calvarial vertex.  No underlying 
fracture.

 
Brief Hospital Course:
___ with h/o dementia, HTN, and frequent falls who was 
transferred from ___ for further evaluation of SAH after 
an unwitnessed fall at her nursing home ___). 
She was found to have a small left sided subarachnoid hemorrhage 
on CT so was transferrered to ___. The SAH was stable 6 hours 
later on repeat CT and she had no focal neurologic findings. 
Neurosurgery was consulted and felt that no intervention was 
warranted. She was observed overnight and discharged the 
following day.

# Subarachnoid hemorrhage. Patient presented after a fall and 
was found to have a small SAH in the left sylvian fissure which 
was stable on CT scans 6 hours apart at ___ after transfer 
from ___. She had no focal neurologic deficits on exam. 
She was seen by neurosurgery who determined that no intervention 
was warranted.  

# Frequent falls. Patient reports 3 falls in the past week and 
more falls in the preceding weeks. Her family reports that she 
had a subdural hematoma approximately one month ago after a fall 
as well. The patient indicated that she is falling due to 
unsteady gait. She lives a nursing home and is supposed to ring 
a bell to receive assistance when she needs to get up, however 
she has not been doing this. She also has a walker which she 
does not always use. Her daughter (also her HCP) reports that 
she will now have a 24 hour a day 1:1 aide to help her ambulate. 
She also reports some "dizziness" which appears to have a 
vertiginous component (feeling like the room is spinning) and a 
lightheadedness component. Her lisinopril was stopped due to 
concern that it was contributing to her lightheadedness. She was 
normotensive during this admission. She denied any seizure-like 
activity or cardiac symptoms.

# Dementia. Patient follows with neurology and is on Donepezil. 
This medication was continued in the hospital.

# Hypertension. The patient had been on lisinopril 30 mg, 
however this was held due to concern for orthostasis. 
Orthostatics checked on admission were normal. Patient was 
normotensive throughout admission. Lisinopril was not restarted 
on discharge. 

# Depresson. Patient was continued on her home sertraline.

Transitional issues:
- Lisinopril was stopped due to concern that it was contributing 
to orthostasis and falls. She was normotensive during this 
admission. However, she is also on PO potassium supplementation 
and this may need to be increased now that she has stopped her 
lisinopril.
- Patient is taking other medications that can sometimes 
contribute to dizziness (sertraline, donepezil). It may be 
worthwhile to investigate decreasing or discontinuing these 
medications if possible.
- Patient to be discharged back to nursing home with 1:1 24 
hours a day. She should have close follow up to ensure that she 
is no longer having falls.
- pt has a SAH as observed on CT. We will leave repeat CT in 
discretion of outpatient neurologist. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO QHS 
2. Lisinopril 30 mg PO DAILY 
3. Potassium Chloride 10 mEq PO DAILY 
4. Sertraline 50 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Acetaminophen 650 mg PO Q6H:PRN pain 
7. Oystercal-D (calcium carbonate-vitamin D3) 500 mg(1,250mg) 
-400 unit oral BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Donepezil 10 mg PO QHS 
3. Sertraline 50 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Oystercal-D (calcium carbonate-vitamin D3) 500 mg(1,250mg) 
-400 unit oral BID 
6. Potassium Chloride 10 mEq PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Subarachnoid hemorrhage
Fall

Secondary diagnoses:
Dementia
Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were in the hospital at ___ 
because you fell at home and hit your head. You were found to 
have a small amount of bleeding in your head but this was 
causing no symptoms and the amount of blood was not increased 6 
hours later. You likely fell because you are have difficulty 
with balance and because you may get lightheaded easily. You 
should always use your walker when walking or ask for 
assistance. This is very important. We also stopped one of your 
medications (lisinopril) because we think it may contribute to 
you feeling lightheaded.

It was a pleasure participating in your care. We wish you all 
the best in the future.

Sincerely,
Your ___ team
 
Followup Instructions:
___